US06538159B2
To (S)-2-amino-N-(2-{4-[3-(4-chloro-phenyl)-propoxy]-3-methoxy-phenyl}-ethyl)-3-methyl-butyramide (2 g) and triethylamine (0.9 ml) in dioxane (30 ml) is added methanesulfonyl chloride (0.4 ml). The reaction mixture is stirred overnight at room temperature. Water (200 ml) is then added. It is extracted with ethyl acetate (2×200 ml). The organic layers are washed with brine (2×200 ml), dried (MgSO4) and evaporated. (S)-2-Methanesulfonyl-aminoN-(2-{3-methoxy-4-[3-(4-chloro-phenyl)-propoxy]-phenyl}-ethyl)-3-methyl-butyramide is obtained.

reactant | (S)-2-amino-N-(2-{4-[3-(4-chloro-phenyl)-propoxy]-3-methoxy-phenyl}-ethyl)-3-methyl-butyramide | 2 g | N[C@H](C(=O)NCCC1=CC(=C(C=C1)OCCCC1=CC=C(C=C1)Cl)OC)C(C)C | C23H31ClN2O3
reactant | triethylamine | 0.9 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.4 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 200 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
product | (S)-2-Methanesulfonyl-aminoN-(2-{3-methoxy-4-[3-(4-chloro-phenyl)-propoxy]-phenyl}-ethyl)-3-methyl-butyramide | CS(=O)(=O)[C@](C(=O)NCCC1=CC(=C(C=C1)OCCCC1=CC=C(C=C1)Cl)OC)(C(C)C)N | C24H33ClN2O5S
